US07319099B2
(c) 2,6-Difluoro-3-methanesulfonyl-benzoic acid
A suspension of 18 mmol sodium carbonate and 9 mmol 2,6-Difluoro-3-sulfino-benzoic acid in 30 ml of methanol was stirred at room temperature for 30 min, then heated to 60° C. 24 mmol of methyl iodide were added and the reaction mixture heated overnight at 60° C. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was discarded and the aqueous phase acidified by addition of concentrated hydrochloric acid. Extraction with ethyl acetate yielded the title compound as a slightly brownish solid. MS (m/e): 235.1 (M−H, 16%)

reactant | sodium carbonate | 18 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,6-Difluoro-3-sulfino-benzoic acid | 9 mmol | FC1=C(C(=O)O)C(=CC=C1S(=O)O)F | C7H4F2O4S
reactant | methyl iodide | 24 mmol | CI | CH3I
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | 2,6-Difluoro-3-methanesulfonyl-benzoic acid | FC1=C(C(=O)O)C(=CC=C1S(=O)(=O)C)F | C8H6F2O4S
